US07199124B2
4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine
A solution of 2-(2-amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide (125 g, 0.323 mol) and thiopropionamide (28 g, 0.314 mol) in N,N-dimethylformamide (1200 mL) was stirred at room temperature for 14 hrs. The solvent was evaporated under reduced pressure. Aqueous sodium hydrogen carbonate solution was poured into the residue and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, dried and concentrated. Crude crystals were washed with hexane-ethyl acetate=1:1 to give the title compound (76.0 g, yield 82%).

reactant | 2-(2-amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide | 0.323 mol, 125 g | Br.NC1=NC=CC(=C1)C(C(=O)C1=CC(=CC=C1)C)Br
reactant | thiopropionamide | 0.314 mol, 28 g | C(CC)(=S)N | C3H7NS
solvent | N,N-dimethylformamide | 1200 mL | CN(C=O)C | C3H7NO
product | 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 76.0 g, yield 82% | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C17H17N3S
